US04043993
Nα -t-Butoxycarbonyl-L-tryptophyl-L-prolyl-L-prolyl-O-benzyl-L-tyrosyl-O-benzyl-L-serine-N-ethylamide
Nα -t-Butoxycarbonyl-L-tryptophyl-L-prolyl-L-prolyl-O-benzyl-L-tyrosyl-O-benzyl-L-serine methyl ester, 1.0 g., is dissolved in 50 ml. of a mixture of methyl alcohol and ethylamine (50:50). The solution is let stand at room temperature for one day. After removal of the solvent, the crude product is purified by chromatography over silica gel in ethyl acetate-methanol (90:10) solution to give 0.6 g. of the above named product as a white glass [α]D23 -70° (c. 1.02 in methanol).

reactant | Nα -t-Butoxycarbonyl-L-tryptophyl-L-prolyl-L-prolyl-O-benzyl-L-tyrosyl-O-benzyl-L-serine methyl ester | COC([C@@H](NC([C@@H](NC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O)=O)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)COCC1=CC=CC=C1)=O | C53H62N6O10
reactant | ethylamine | C(C)N | C2H7N
solvent | methanol | CO | CH4O
product | Nα -t-Butoxycarbonyl-L-tryptophyl-L-prolyl-L-prolyl-O-benzyl-L-tyrosyl-O-benzyl-L-serine-N-ethylamide | C(C)NC([C@@H](NC([C@@H](NC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O)=O)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)COCC1=CC=CC=C1)=O | C54H65N7O9
